US07842688B2
b) Benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.430 g of benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-hydroxypiperidine-1-carboxylate and 0.261 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a colourless oil. Rf=0.10 (1:1 EtOAc-heptane). Rt=5.72.

reactant | benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | 0.430 g | FC1=C(COCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)O)C=C(C=C1)F | C28H29F2NO5
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.261 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-{4-[2-(2,5-difluorobenzyloxy)ethoxy]phenyl}-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | FC1=C(COCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OCC2=CC=CC=C2)OCC=2C=CC3=C(N(C(CO3)=O)CCCOC)C2)C=C(C=C1)F | C41H44F2N2O8
